US04505837
A solution of 50 g of 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline in 600 ml of tetrahydrofuran is added dropwise to a boiling suspension of 6 g of magnesium in 100 ml of tetrahydrofuran and the reaction mixture is subsequently heated to the boil for another 2 hours. A solution of 2.8 g of 4-n-propylcyclohexanone in 50 ml of tetrahydrofuran is then added dropwise and the reaction mixture is heated to the boil for 4 hours with stirring. After cooling, 500 ml of 10% strength aqueous ammonium chloride solution is added to the reaction mixture which is then extracted three times with 600 ml of diethyl ether. The combined extracts are dried over sodium sulphate and evaporated. The residue is dissolved in 120 ml of ethanol and, after the addition of 2 ml of concentrated sulphuric acid, the solution is heated to the boil for 16 hours. Subsequently, the reaction mixture is concentrated to 25 ml and subjected to chromatography on a neutral alumina column. 28 g of ethyl 4-(4-n-propylcyclohexen-1-yl)-benzoate is eluted with diethyl ether. This material is heated to the boil for 3 hours with 200 ml of 10% strength aqueous sodium hydroxide solution and 4-(4-n-propylcyclohexen-1-yl)-benzoic acid is isolated from the reaction mixture after acidification with dilute hydrochloric acid, extraction of the mixture with diethyl ether, drying of the extract and evaporation; yield 24 g of colorless crystals, m.p. 93°.

reactant | 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline | 50 g | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
reactant | magnesium | 6 g | [Mg] | Mg
reactant | 4-n-propylcyclohexanone | 2.8 g | C(CC)C1CCC(CC1)=O | C9H16O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(4-n-propylcyclohexen-1-yl)-benzoic acid | C(CC)C1CC=C(CC1)C1=CC=C(C(=O)O)C=C1 | C16H20O2
